US07008957B2
11b) 2-Trimethylsilanylethyl 4-bromomethylpiperidine-1-carboxylate
19.9 g of 2-trimethylsilanylethyl 4-hydroxymethylpiperidine-1-carboxylate were dissolved in 600 ml of THF. After cooling to 0° C., 50.7 g of tetrabromomethane were added. Then 42.1 g of triphenylphosphine were added in 4 portions at intervals each of 20 min. The mixture was allowed to reach room temperature and was stirred for 14 h. The solvent was then removed in vacuo, and the residue was chromatographed on silica gel.

reactant | 2-trimethylsilanylethyl 4-hydroxymethylpiperidine-1-carboxylate | 19.9 g | OCC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C12H25NO3Si
reactant | tetrabromomethane | 50.7 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 42.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 2-Trimethylsilanylethyl 4-bromomethylpiperidine-1-carboxylate | BrCC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C12H24BrNO2Si
